US07220862B2
(2-Amino-6-methoxy-benzyl)-(1-benzyl-piperidin-4-yl)-amine
Into a flame dried flask, N-(1-benzyl-piperidin-4-yl)-2-methoxy-6-nitrobenzamide (1.0 g, 2.8 mmol) and lithium aluminium hydride (0.31 g, 8.45 mmol) were combined. To the mixture was added anhydrous 1,4-dioxane (15 mL). The mixture was slowly brought to reflux over 1 h and stirred at reflux for 16 h. The reaction mixture was cooled to 0° C. and excess lithium aluminium hydride destroyed by dropwise addition of methanol, followed by careful addition of 20% potassium hydroxide. The aluminum salts were filtered, the filtrate concentrated and used as is for the next reaction.

reactant | N-(1-benzyl-piperidin-4-yl)-2-methoxy-6-nitrobenzamide | 2.8 mmol, 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=CC=C1[N+](=O)[O-])OC)=O | C20H23N3O4
reactant | lithium aluminium hydride | 8.45 mmol, 0.31 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (2-Amino-6-methoxy-benzyl)-(1-benzyl-piperidin-4-yl)-amine | NC1=C(CNC2CCN(CC2)CC2=CC=CC=C2)C(=CC=C1)OC | C20H27N3O
